US08252781B2
Preparation of 1-[(2-methylphenyl)carbonyl]-4-(propan-2-yl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one
2-(Adamantan-2-yl)-4-(propan-2-yl)-1,2-diazetidin-3-one prepared in Process 3 of Example 10 and 2-methylbenzoyl chloride were used for a similar reaction and treatment as Example 96, and the title compound was obtained as a colorless oil.

reactant | 2-(Adamantan-2-yl)-4-(propan-2-yl)-1,2-diazetidin-3-one | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)C(C)C | C15H24N2O
reactant | 2-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
product | 1-[(2-methylphenyl)carbonyl]-4-(propan-2-yl)-2-(adamantan-2-yl)-1,2-diazetidin-3-one | CC1=C(C=CC=C1)C(=O)N1N(C(C1C(C)C)=O)C1C2CC3CC(CC1C3)C2 | C23H30N2O2
